US07897321B2
The thus obtained monomer precursor is mixed with, for example, phenacyl bromide in acetonitrile or nitromethan at room temperature, to thereby obtain the corresponding sulfonium bromide. With the thus obtained sulfonium bromide, for example, sodium perfluorobutane sulfonate is mixed in nitromethane at room temperature to thereby obtain the targeted product of sulfonium perfluorobutane sulfonate. Moreover, the thus obtained sulfonium perfluorobutanesulfonate can be further purified by recrystallization.

reactant | sulfonium bromide | [Br-].[SH3+]
reactant | sodium perfluorobutane sulfonate | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F.[Na+]
solvent | nitromethane | [N+](=O)([O-])C | CH3NO2
product | sulfonium perfluorobutane sulfonate | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F.[SH3+] | InChI=1S/C4HF9O3S.H2S/c5-1(6,3(9,10)11)2(7,8)4(12,13)17(14,15)16;/h(H,14,15,16);1H2
